US08859591B2
Methyl 4-hydroxybenzoate (609 mg, 4.00 mmol), 1-(4-bromophenyl)-3-methylbutan-1-ol (1.95 g, 8.00 mmol) and triphenylphosphine (2.10 g, 8.00 mmol) were dissolved in tetrahydrofuran (10 mL). Diisopropyl azodicarboxylate (1.58 mL, 8.00 mmol) was added. The resulting solution was stirred at room temperature overnight. The reaction was diluted with ethyl acetate (50 mL) and washed with 0.1M HCl (3×100 mL) and brine. The organics were dried over magnesium sulfate, filtered and concentrated. Purification by column chromatography (0-30% ethyl acetate in heptane) gave (+/−)-methyl 4-(1-(4-bromophenyl)-3-methylbutoxy)benzoate (1.4 g, 93%) as a clear oil. 1H NMR (400 MHz, CDCl3, δ): 7.89-7.83 (m, 2H), 7.46-7.40 (m, 2H), 7.21-7.16 (m, 2H), 6.83-6.78 (m, 2H), 5.16 (dd, J=9, 4.7 Hz, 1H), 3.83 (s, 3H), 1.99-1.91 (m, 1H), 1.88-1.75 (m, 1H), 1.58-1.51 (m, 1H), 0.97 (d, J=6.6 Hz, 3H), 0.92 (d, J=6.6 Hz, 3H).

reactant | Methyl 4-hydroxybenzoate | 4.00 mmol, 609 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 1-(4-bromophenyl)-3-methylbutan-1-ol | 8.00 mmol, 1.95 g | BrC1=CC=C(C=C1)C(CC(C)C)O | C11H15BrO
reactant | triphenylphosphine | 8.00 mmol, 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 8.00 mmol, 1.58 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (+/−)-methyl 4-(1-(4-bromophenyl)-3-methylbutoxy)benzoate | 1.4 g, 93% | BrC1=CC=C(C=C1)C(CC(C)C)OC1=CC=C(C(=O)OC)C=C1 | C19H21BrO3
